US05596097
9-chloro-6-fluoro-4-hydroxybenzo[g]isoquinoline-5,10-dione
A mixture of 4-(5'-chloro-2'-fluorobenzyl) -5-hydroxynicotinic acid of Preparative Example 27 (0.15 g) and 20% oleum (2 mL) is stirred for 45 minutes at 125°-130° C. (external bath temperature). The reaction mixture is then allowed to cool at room temperature and poured over 20 g of crushed ice and the resultant mixture neutralized with solid sodium bicarbonate to pH=7. The dione is extracted with dichloromethane (4×20 mL) and the combined organic phases are dried over MgSO4 and concentrated to dryness. The product is obtained as a yellow-tan solid (0.12 g) which darkens on standing in air.

reactant | 4-(5'-chloro-2'-fluorobenzyl) -5-hydroxynicotinic acid | ClC=1C=CC(=C(CC2=C(C=NC=C2C(=O)O)O)C1)F | C13H9ClFNO3
reactant | oleum | 2 mL | OS(=O)(=O)O.O=S(=O)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 9-chloro-6-fluoro-4-hydroxybenzo[g]isoquinoline-5,10-dione | 0.12 g | ClC1=CC=C(C=2C(C=3C(=CN=CC3C(C21)=O)O)=O)F | C13H5ClFNO3
